US09303033B2
To methyl 7-(cyclopropylamino)-3-formylpyrazolo[1,5-a]pyrimidin-5-ylcarbamate (33 mg, 0.12 mmol) in 1.0 mL ethanol was added hydantoin (12 mg, 0.12 mmol) and piperidine (11 ul). The reaction was heated at 80° C. for two hours. The reaction was cooled to room temperature, the yellow precipitate was filtered, and washed with ethanol to yield 15 mg (40% yield) (Z)-methyl 7-(cyclopropylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-5-ylcarbamate. LCMS (M+1=358)

reactant | methyl 7-(cyclopropylamino)-3-formylpyrazolo[1,5-a]pyrimidin-5-ylcarbamate | 0.12 mmol, 33 mg | C1(CC1)NC1=CC(=NC=2N1N=CC2C=O)NC(OC)=O | C12H13N5O3
reactant | hydantoin | 0.12 mmol, 12 mg | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | piperidine | 11 ul | N1CCCCC1 | C5H11N
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | (Z)-methyl 7-(cyclopropylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-5-ylcarbamate | 15 mg, 40% yield | C1(CC1)NC1=CC(=NC=2N1N=CC2\C=C\2/NC(NC2=O)=O)NC(OC)=O | C15H15N7O4
